US07419975B2
((S)-1-{(S)-1-Cyclohexyl-2-oxo-2-[(S)-2-(3-phenoxy-phenyl)-pyrrolidin-1-yl]-ethylcarbamoyl}-ethyl)-methyl-carbamic acid tert-butyl ester (F):
To a solution of Boc-N-methyl-L-alanine (771 mgs, 3.79 mmol), HOBt (700 mgs, 5.17 mmol), and HBTU (2.0 g, 5.17 mmol) in DMF (10 mL) is added (S)-2-amino-2-cyclohexyl-1-[(S)-2-(3-phenoxy-phenyl)-pyrrolidin-1-yl]-ethanone and DIPEA (3 mL, 17.25 mmol). The mixture is stirred for 30 minutes and diluted with brine (20 mL) and extracted with EtOAc (3×10 mL). The organics were combined, dried over Na2SO4, filtered, concentrated under reduced pressures and purified by silica gel column chromatography (50% EtOAc/Hexanes) to give the product ((S) 1-{(S)-1-cyclohexyl-2-oxo-2-[(S)-2-(3-phenoxy-phenyl)-pyrrolodin-1-yl]-ethylcarbamoyl}-ethyl)-methyl-carbamic acis tert-butyl ester as a white powder (1.3 g, 84%). LCMS m/z 564 (M+1).

reactant | Boc-N-methyl-L-alanine | 3.79 mmol, 771 mgs | C(=O)(OC(C)(C)C)N([C@@H](C)C(=O)O)C | C9H17NO4
reactant | HOBt | 5.17 mmol, 700 mgs | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | HBTU | 5.17 mmol, 2.0 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (S)-2-amino-2-cyclohexyl-1-[(S)-2-(3-phenoxy-phenyl)-pyrrolidin-1-yl]-ethanone | N[C@H](C(=O)N1[C@@H](CCC1)C1=CC(=CC=C1)OC1=CC=CC=C1)C1CCCCC1 | C24H30N2O2
reactant | DIPEA | 17.25 mmol, 3 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | brine | 20 mL | [Cl-].[Na+].O
product | ((S)-1-{(S)-1-Cyclohexyl-2-oxo-2-[(S)-2-(3-phenoxy-phenyl)-pyrrolidin-1-yl]-ethylcarbamoyl}-ethyl)-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)[C@@H](C)C(N[C@H](C(N1[C@@H](CCC1)C1=CC(=CC=C1)OC1=CC=CC=C1)=O)C1CCCCC1)=O)=O | C33H45N3O5
